US03963734
5-Chloro-3-nitro-2-aminopyridine is reacted with perfluorooctanoic anhydride to obtain 5-chloro-3-nitro-22,2,3,3,4,4,5,5,6,6,7,7,8,8,8-pentafluorooctanamido)pyridine, which on hydrogenation yields 6-chloro-1-hydroxy-2-(perfluoro-n-heptyl)-1H-imidazo(4,5-b)pyridine. This compound is reacted with dimethylamine to obtain the dimethylamine salt thereof.

reactant | 5-Chloro-3-nitro-2-aminopyridine | ClC=1C=C(C(=NC1)N)[N+](=O)[O-] | C5H4ClN3O2
reactant | perfluorooctanoic anhydride | FC(C(=O)OC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)=O)(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C16F30O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-chloro-1-hydroxy-2-(perfluoro-n-heptyl)-1H-imidazo(4,5-b)pyridine | ClC=1C=C2C(=NC1)N=C(N2O)C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C13H3ClF15N3O
